US07872031B2
To a solution of 2,2-dimethoxyethanamine (0.053 g, 0.505 mmol) in anhydrous tetrahydrofuran (5 mL) at 0-5° C. was added the N-((5-bromo-2-chloropyridin-3-yl)chloromethylene)-2,3-dichlorobenzenamine (0.1 g, 0.2526 mmol) as a solution in anhydrous tetrahydrofuran (5 mL). After stirring overnight, p-toluene sulfonic acid (0.05 g, 0.51 mmol) was added and the reaction mixture was stirred an additional 2 hours. After concentration to dryness the resulting solid purified by flash chromatography (0 to 30% ethyl acetate/methylene chloride) to provide 0.092 g of 5-bromo-2-chloro-3-(1-(2,3-dichlorophenyl)-1H-imidazol-2-yl)pyridine. Using the same procedure, 5-bromo-2-chloro-3-(1-(2,3-difluorophenyl)-1H-imidazol-2-yl)pyridine and 5-bromo-2-chloro-3-(1-(3-chloro-2-fluorophenyl)-1H-imidazol-2-yl)pyridine can be produced from 5-bromo-2-chloro-N-(2,3-difluorophenyl)pyridine-3-carboxamide and 5-bromo-2-chloro-N-(3-chloro-2-fluorophenyl)pyridine-3-carboxamide, respectively.

reactant | 2,2-dimethoxyethanamine | 0.505 mmol, 0.053 g | COC(CN)OC | C4H11NO2
reactant | N-((5-bromo-2-chloropyridin-3-yl)chloromethylene)-2,3-dichlorobenzenamine | 0.2526 mmol, 0.1 g | BrC=1C=C(C(=NC1)Cl)C(=NC1=C(C(=CC=C1)Cl)Cl)Cl | C12H5BrCl4N2
reactant | p-toluene sulfonic acid | 0.51 mmol, 0.05 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 5-bromo-2-chloro-3-(1-(2,3-dichlorophenyl)-1H-imidazol-2-yl)pyridine | 0.092 g | BrC=1C=C(C(=NC1)Cl)C=1N(C=CN1)C1=C(C(=CC=C1)Cl)Cl | C14H7BrCl3N3
